US04447430
Acetic acid (1 ml.) and a suspension of 10% palladium on carbon (2.0 g.) in water (8 ml) were added to a solution of 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-isopropoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 5.0 g.) in tetrahydrofuran (150 ml.), and the suspension was subjected to catalytic reduction at room temperature under ordinary pressure. After removing the catalyst by filtration, the filtrate was concentrated under reduced pressure. Ethylacetate (80 ml.) was added to the residue, and adjusted to pH 7.5 with an aqueous solution of sodium bicarbonate. The organic layer was separated and extracted with an aqueous solution of sodium bicarbonate. The extract and the aqueous layer obtained above were combined, adjusted to pH 3.0 with conc. hydrochloric acid and extracted with tetrahydrofuran. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure. The precipitating crystalls were collected by filtration and dried to give 7-[2-(2-amino-4-thiazolyl)-2 -isopropoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.8 g.).

reactant | Acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-isopropoxyiminoacetamido]-3-cephem-4-carboxylate | 5.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC(C)C | C22H22N6O7S2
reactant | hydrochloric acid | Cl | ClH
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
solvent | water | 8 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-amino-4-thiazolyl)-2 -isopropoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.8 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC(C)C | C15H17N5O5S2
